US08293743B2
A solution of 4-Methyl benzothiazole (16.0 g, 107 mmol) in 535 mL of CCl4 was treated with NBS (19.0 g, 107 mmol) and AIBN (2.28 g, 13.9 mmol) at 20° C. and stirred at 70° C. for 2.5 h. The resulting mixture was filtered through Celite washing with Et2O (150 mL) and concentrated in vacuo. The residue was submitted to a silica gel column chromatography with toluene:Et2O=50:3 to 50:5 as eluate to afford 4-bromomethyl benzothiazole as a yellowish solid. (20.4 g, 89.9 mmol, 84%) Rf=0.61 (toluene-Et2O 10:1); 1H NMR (400 MHz, CDCl3) δ 9.07 (1H, s), 7.90 (1H, d, J=7.5 Hz), 7.55 (1H, d, J=7.5 Hz), 7.41 (1H, t, J=7.5 Hz), 5.08 (2H, s); 13C NMR (99.5 MHz, CDCl3) δ 154.1, 151.4, 134.3, 132.6, 127.0, 125.6, 122.3, 29.5.

reactant | 4-Methyl benzothiazole | 107 mmol, 16.0 g | CC1=CC=CC2=C1N=CS2 | C8H7NS
reactant | NBS | 107 mmol, 19.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 13.9 mmol, 2.28 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 535 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl benzothiazole | BrCC1=CC=CC2=C1N=CS2 | C8H6BrNS
